US04514411
A mixture of 12.54 g (0.046 m) of 4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-acetic acid in 100 ml of dimethylformamide (DMF) and 3.18 g (0.033 m) of K2CO3 was warmed to 60° C. for 1 hour in an atmosphere of nitrogen. To this mixture 7.7 g (0.05 m) of methyl bromoacetate was added dropwise and the mixture was held at 60° C. overnight (about 16 hours). The reaction mixture was poured into water and extracted with ether. The ether extract was washed with 5% NaHCO3 and water, dried over Na2SO4, filtered and evaporated to give an oil which solidified. Trituration with hexane gave 12.5 g (78%) of methyl(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)acetoxyacetate, m.p. 78°-80° C.

reactant | 4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-acetic acid | 12.54 g | O=C1C2=C(COC3=C1C=C(C=C3)CC(=O)O)C=CS2 | C14H10O4S
reactant | K2CO3 | 3.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 7.7 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | methyl(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)acetoxyacetate | 12.5 g, 78% | COC(COC(CC=1C=CC2=C(C(C3=C(CO2)C=CS3)=O)C1)=O)=O | C17H14O6S
